* C:\Users\gratt\Documents\Uni\Session4\App4\S4_APP4_Info\s4iapp4_prob\nor_test.asc
V1 vdd 0 {vv}
V2 b 0 PULSE(0 {vv} 1000p 1p 1p 2000p 4000p 5)
V3 a 0 PULSE(0 {vv} 2000p 1p 1p 2000p 4000p 5)
XX1 a out vdd 0 b nor params: NOR ll=180n wn={nnw} wp={nnw*mp}
C1 out 0 1f

* block symbol definitions
.subckt nor in1 Q vdd vss in2
M1 Q in1 vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M2 Q in2 vss vss NMOS l={ll} w={wn} ad={450n*{wn}} as={450n*{wn}} pd={900n+{wn}} ps={1080n+{wn}}
M3 vdd in1 N001 vdd PMOS l={ll} w={newWp} ad={450n*{newWp}} as={450n*{newWp}} pd={900n+{newWp}} ps={1080n+{newWp}}
M4 N001 in2 Q vdd PMOS l={ll} w={newWp} ad={450n*{newWp}} as={450n*{newWp}} pd={900n+{newWp}} ps={1080n+{newWp}}
.lib BU_180nm.lib
.param newWp={wp*2}
.ends nor

.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\gratt\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.param vv=1.8 nnw=180n mp=2.26
.tran 0 10000p 0 10p
.lib BU_180nm.lib
.meas tran t1 find time when v(out)=vv*0.1 rise 2
.meas tran t2 find time when v(out)=vv*0.9 rise 1
.meas tran t3 find time when v(out)=vv*0.1 fall 1
.meas tran t4 find time when v(out)=vv*0.9 fall 1
.meas tran transition_up param abs(t2-t1)
.meas tran transition_down param abs(t4-t3)
.meas tran ratio param transition_up/transition_down
.backanno
.end
